US20010044529A1
The synthesis shown in FIG. 2A can be carried out, for example, by adding anhydrous N,N-diisopropylamine to a solution of phosphorus trichloride in dry benzene to produce bis(N,N-diisopropylamino)chlorophosphine, and reacting it in situ with 2-(N-formyl-N-methyl)aminoethan-1-ol to produce phosphordiamidite 120 in about 73% yield. Phosphordiamidite 120 can then be reacted with a suitably protected nucleophile, such as 5′-O-(4,4′-dimethoxytrityl)-2′-deoxythymidine (Barone et al., Nucl. Acids Res., 12, 4051-4061 (1984)) to produce deoxyribonucleoside phosphoramidite 101 (FIG. 2A).

reactant | N,N-diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | bis(N,N-diisopropylamino)chlorophosphine | C(C)(C)N(C(C)C)P(Cl)N(C(C)C)C(C)C | C12H28ClN2P
